US07087761B2
To a suspension of 15.0 g (43.7 mmol) N-[3-(3-benzoyl-thioureido)-4-methoxy-phenyl]-acetamide in 200 ml glacial acetic acid was added 7.65 ml (43.6 mmol) of a 5.7 M solution of HBr in acetic acid, and the mixture was heated at 90° C. for 1 h. 2.5 ml (48.0 mmol) DMSO was then added, and stirring continued at 90° C. for 1.5 h. After cooling to room temperature, the reaction mixture was poured onto 1000 ml distilled water, and the resulting slurry stirred for 15 min. The mixture was then filtered, and the filter cake washed with water, then dried in vacuo at 50° C., affording 12.8 g (86%) N-(7-acetylamino-4-methoxy-benzothiazol-2-yl)-benzamide as a light brown solid. ES-MS m/e (%): 342 (M+H+, 100).

reactant | N-[3-(3-benzoyl-thioureido)-4-methoxy-phenyl]-acetamide | 43.7 mmol, 15.0 g | C(C1=CC=CC=C1)(=O)NC(NC=1C=C(C=CC1OC)NC(C)=O)=S | C17H17N3O3S
reactant | HBr | Br | BrH
reactant | DMSO | 48.0 mmol, 2.5 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | N-(7-acetylamino-4-methoxy-benzothiazol-2-yl)-benzamide | 12.8 g, 86% | C(C)(=O)NC1=CC=C(C=2N=C(SC21)NC(C2=CC=CC=C2)=O)OC | C17H15N3O3S
